US06348474B1
Methyl 3-(2,4-dichlorobenzyl)-2-methylindolizine-6-carboxylate
To a solution of methyl 3-(2,4-dichlorobenzoyl)-2-methylindolizine-6-carboxylate (2.34 g) in tetrahydrofuran (47 ml) was dropwise added a borane-dimethylsulfide complex (10.0 M, 6.5 ml) under ice-cooling. The mixture was stirred for 4 hr at room temperature. To this reaction mixture was carefully added dropwise 1N hydrochloric acid (6.5 ml) under ice-cooling, and the mixture was stirred for 30 min at room temperature. The reaction mixture was neutralized with saturated aqueous sodium hydrogencarbonate solution, and the resulting product was extracted three times with ethyl acetate. The organic layers were combined, washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give the objective compound (490.4 mg) as a pale-yellow solid.

reactant | methyl 3-(2,4-dichlorobenzoyl)-2-methylindolizine-6-carboxylate | 2.34 g | ClC1=C(C(=O)C2=C(C=C3C=CC(=CN23)C(=O)OC)C)C=CC(=C1)Cl | C18H13Cl2NO3
reactant | hydrochloric acid | 1N, 6.5 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 47 ml | O1CCCC1 | C4H8O
product | Methyl 3-(2,4-dichlorobenzyl)-2-methylindolizine-6-carboxylate | 490.4 mg | ClC1=C(CC2=C(C=C3C=CC(=CN23)C(=O)OC)C)C=CC(=C1)Cl | C18H15Cl2NO2
